US03954754
A mixture of 12.6 g of benzoyl chloride in 100 cc of ethylene chloride is added dropwise to a suspension of 25.6 g of 3-chloro-5,6,7,8-tetrahydropyrido [4,3-c]pyridazine maleate in 250 cc of ethylene chloride and 21.8 g of triethylamine within 18 minutes at room temperature while stirring. The mixture is stirred at room temperature for a further 14 hours, 200 cc of water are added, the organic phase is separated and concentrated to an oil in a vacuum. Upon adding ether/dimethoxyethane to this oil, crude 6-benzoyl-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine is obtained. After recrystallization from absolute ethanol with the addition of a small amount of coal, the compound has a M.P. of 125°-127° (decomp.).

reactant | benzoyl chloride | 12.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-chloro-5,6,7,8-tetrahydropyrido [4,3-c]pyridazine maleate | 25.6 g | C(\C=C/C(=O)O)(=O)O.ClC1=CC2=C(N=N1)CCNC2
reactant | triethylamine | 21.8 g | C(C)N(CC)CC | C6H15N
reactant | water | 200 cc | O | H2O
solvent | ethylene chloride | 100 cc | C(CCl)Cl | C2H4Cl2
solvent | ethylene chloride | 250 cc | C(CCl)Cl | C2H4Cl2
product | 6-benzoyl-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)Cl)CC1 | C14H12ClN3O
